US05047411
Pyridinium bromide perbromide (82.8 g) was added to a mixture of 1-(3-benzyloxy-4-nitrophenyl)but-1-en-3-one (70.0 g) and boron trifluoride etherate (290 ml) in tetrahydrofuran (1.4 l) under ice-cooling. The mixture was stirred for 2.5 hours at ambient temperature. The reaction mixture was added to a mixture of ethyl acetate and water under stirring. The separated organic layer was washed with saturated aqueous sodium bicarbonate and brine successively. The solution was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from diisopropyl ether to give 4-bromo-1-(3-benzyloxy-4-nitrophenyl)but-1-en-3-one (54.42 g).

reactant | Pyridinium bromide perbromide | 82.8 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 1-(3-benzyloxy-4-nitrophenyl)but-1-en-3-one | 70.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C=CC(C)=O | C17H15NO4
reactant | boron trifluoride etherate | 290 ml | B(F)(F)F.CCOCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.4 l | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-bromo-1-(3-benzyloxy-4-nitrophenyl)but-1-en-3-one | 54.42 g | BrCC(C=CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C17H14BrNO4
